US07524847B2
4-[7-(2-Butynyl)-2-chloro-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester
4-[7-(2-Butynyl)-2-chloro-9-(2,2-dimethylpropionyloxymethyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester (665 mg) was dissolved in a mixed solvent of methanol (5 mL) and tetrahydrofuran (3 mL), and then sodium hydride (60-72% in oil) (61 mg) was added to this solution. The reaction solution was stirred at room temperature for three hours. 1 N aqueous hydrochloric acid (3 mL) was then added to the reaction solution, which was extracted using ethyl acetate. The obtained organic layer was washed sequentially with water and saturated brine, and then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3) to give the title compound (294 mg).

reactant | 4-[7-(2-Butynyl)-2-chloro-9-(2,2-dimethylpropionyloxymethyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester | 665 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N(C(N(C2=NC(=N1)Cl)COC(C(C)(C)C)=O)=O)CC#CC | C24H33ClN6O5
reactant | sodium hydride | 61 mg | [H-].[Na+]
reactant | hydrochloric acid | 1 N, 3 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-[7-(2-Butynyl)-2-chloro-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester | 294 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N(C(NC2=NC(=N1)Cl)=O)CC#CC | C18H23ClN6O3
